### PR TITLE
feat: Constructions for splitting and merging vectors of bitvectors

### PR DESCRIPTION
**Pull request by javra**
This PR provides functions to merge and split vectors of bitvectors, taking up the abandoned #3727.

### CODE REVIEW

**Comment by javra** [comment]
WIP

**Comment by javra** [comment]
changelog-library

File: src/Init/Data/BitVec/Basic.lean [hunk 1]
```diff
@@ -760,4 +761,40 @@ def reverse : {w : Nat} → BitVec w → BitVec w
   | 0, x => x
   | w + 1, x => concat (reverse (x.truncate w)) (x.msb)
 
+/- ### vectors of bitvectors -/
+
+/-- Split a bitvector into a vector of bitvectors of equal length where the vector ends on the
+most significant part. -/
+def splitBE (m n : Nat) (x : BitVec (m * n)) : Vector (BitVec m) n :=
+  (Vector.range n).map (fun i => x.extractLsb' (m * i) m)
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean:769]:
```suggestion
/-- Split a bitvector into a vector of bitvectors of equal length where the vector ends on the
most significant part. 'BE' for 'big endian'. See also `BitVec.splitLE`. -/
def splitBE (m n : Nat) (x : BitVec (m * n)) : Vector (BitVec m) n :=
  (Vector.range n).map (fun i => x.extractLsb' (m * i) m)
```

File: src/Init/Data/BitVec/Basic.lean [hunk 2]
```diff
@@ -760,4 +761,40 @@ def reverse : {w : Nat} → BitVec w → BitVec w
...
+
+/-- Split a bitvector into a vector of bitvectors of equal length where the vector ends on the
+least significant part. -/
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean:772]:
```suggestion
/-- Split a bitvector into a vector of bitvectors of equal length where the vector ends on the
least significant part ('LE' for 'little endian'). See also `BitVec.splitGE`. -/
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -5127,6 +5128,44 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+  have : m * (n - k - 1) + i < m * n := by
+    apply Nat.lt_of_lt_of_le (Nat.add_lt_add_left hi _)
+    rw [← Nat.mul_add_one]
+    apply Nat.mul_le_mul_left
+    omega
+  simp only [Nat.add_one_sub_one, splitLE, Vector.range, Vector.map_mk, Vector.pop_mk,
+    Vector.getElem_mk, Array.getElem_pop, Array.getElem_map, Array.getElem_range,
+    getElem_extractLsb', this, getLsbD_eq_getElem, ← Nat.add_assoc]
+  rw [Nat.sub_add_comm (Nat.le_of_lt hk), Nat.sub_add_comm (Nat.le_sub_of_add_le' hk)]
+  rw [Nat.mul_add m (n - k - 1), Nat.add_comm m]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:5144]:
```suggestion
  rw [Nat.sub_add_comm (Nat.le_of_lt hk), Nat.sub_add_comm (Nat.le_sub_of_add_le' hk),
    Nat.mul_add m (n - k - 1), Nat.add_comm m]
```

Can we merge the `rw`s together?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -5127,6 +5128,84 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+    rw [ih]
+    ext i hi
+    by_cases hi' : i < m
+    · simp [getElem_append, hi', BitVec.getLsbD_eq_getElem hi]
+    · simp [getElem_append, hi', Nat.add_sub_of_le (Nat.le_of_not_lt hi'),
+        BitVec.getLsbD_eq_getElem hi]
+
+theorem getElem_flattenBitVecLE {m n : Nat} [NeZero m] (v : Vector (BitVec m) n) (i : Nat)
+    (hi : i < m * n) :
+    (v.flattenBitVecLE m)[i] =
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:5172]:
```suggestion
theorem getElem_flattenBitVecLE {m n : Nat} [NeZero m] (v : Vector (BitVec m) n) (i : Nat)
    (hi : i < m * n) :
    (v.flattenBitVecLE m)[i] =
```

Nit: I don't think we need `[NeZero m]`, since if `m = 0`, the hypothesis `i < m * n` is inconsistent :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -5127,6 +5128,84 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+      simp [Vector.pop, ← Nat.mod_eq_sub_mod (Nat.ge_of_not_lt hi'),
+        ← Nat.div_eq_sub_div m.pos_of_neZero (Nat.ge_of_not_lt hi')]
+
+theorem getElem_splitLE {i : Nat} (hi : i < n) (x : BitVec (m * n)) :
+    (x.splitLE m n)[i] = x.extractLsb' (m * (n - i - 1)) m := by
+  simp [splitLE, Vector.range]
+
+@[simp]
+theorem splitLE_flattenBitVecLE {m n : Nat} [NeZero m] {v : Vector (BitVec m) n} :
+    (v.flattenBitVecLE m).splitLE m n = v := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:5195]:
```suggestion
@[simp]
theorem splitLE_flattenBitVecLE {m n : Nat} [NeZero m] {v : Vector (BitVec m) n} :
    (v.flattenBitVecLE m).splitLE m n = v := by
```

For the same reason as above, I believe we don't need the `[NeZero m]` constraint here, unless I am missing something?

**Review by bollu — APPROVED** [review]

**Review by bollu — APPROVED** [review]
LGTM, modulo suggested changes!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -5127,6 +5128,85 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+  have : m * (n - i - 1) + j < m * n := by
+    apply Nat.lt_of_lt_of_le (Nat.add_lt_add_left hj _)
+    rw [← Nat.mul_add_one]
+    apply Nat.mul_le_mul_left
+    omega
+  simp only [getElem_splitLE, getElem_extractLsb', getLsbD_eq_getElem this, getElem_flattenBitVecLE,
+    Nat.mul_add_mod_self_left, Nat.mod_eq_of_lt hj]
+  simp [Nat.add_div (Nat.pos_of_lt_mul_right this), Nat.div_eq_of_lt hj,
+    Nat.mul_div_cancel_left _ (Nat.pos_of_lt_mul_right this),
+    Nat.not_le_of_gt (m := j % m) (n := m) (Nat.mod_lt_of_lt hj)]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:5206]:
```suggestion
  simp only [Nat.add_div (Nat.pos_of_lt_mul_right this),
    Nat.mul_div_cancel_left _ (Nat.pos_of_lt_mul_right this), Nat.div_eq_of_lt hj, Nat.add_zero,
    Nat.mul_mod_right, Nat.zero_add, Nat.not_le_of_gt (m := j % m) (n := m) (Nat.mod_lt_of_lt hj),
    ↓reduceIte]
```

Non-terminal simp :)

**Comment by kim-em** [comment]
This hasn't been touched in over a year, and has a merge conflict. I'm closing now; please re-open if you think appropriate.
